US05332735
STAGE B: 4,5-METHYLENEDIOXY-2-NITROBENZOYL CHLORIDE
5 g (0.23 mole) of 4,5-methylenedioxy-2-nitrobenzoic acid are suspended in 50 ml of thionyl chloride and refluxed for 2 hours. The solution obtained is concentrated under reduced pressure. The residual oil crystallizes immediately after the addition of 50 ml of petroleum ether. The crystals are spun and recrystallized in ether.

reactant | 4,5-methylenedioxy-2-nitrobenzoic acid | 0.23 mole, 5 g | C1OC2=CC(=C(C(=O)O)C=C2O1)[N+](=O)[O-] | C8H5NO6
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 4,5-METHYLENEDIOXY-2-NITROBENZOYL CHLORIDE | C1OC2=CC(=C(C(=O)Cl)C=C2O1)[N+](=O)[O-] | C8H4ClNO5
